US09233983B2
Step-II: 4-[4-chloro-1-(p-tolylsulfonyl)pyrrolo[2,3-b]pyridin-2-yl]-N,N-dimethyl-3,6-dihydro-2H-pyridine-1-carboxamide (P-5-II)
Intermediate P-5-I (2 g, 6.94 mmol) was dissolved in CH2Cl2 (20 mL), to which trifluoroacetic acid (10 mL, excess) was added at 0° C. and the reaction mixture was stirred at room temperature for 2 h. Solvents were removed under reduced pressure and saturated NaHCO3 solution (50 mL) was added to it. Extraction was carried out using EtOAc (30 mL×2); the combined organic layers were washed with water (60 mL), brine (60 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to provide corresponding Boc-deprotected intermediate (1.6 g). It (0.5 g, 1.28 mmol) was dissolved in CH2Cl2 (10 mL) and cooled to 0° C. To this was added pyridine (1.0 mL, 12.8 mmol) and 4-nitrophenylchloroformate (1.29 g, 6.44 mmol) sequentially. The reaction mixture was stirred at room temperature for 3 h before solvent was removed under reduced pressure. To the residue obtained was added DMF (10 mL) and cooled to 0° C. To this reaction mixture, TEA (1.6 mL, 12.8 mmol) and dimethylaminehydrochloride (0.525 g, 6.44 mmol) were added and it was stirred at room temperature for 16 h. It was then diluted using water (30 mL) and extraction was carried out using EtOAc (20 mL×3). The combined organic layers were washed with brine (50 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (25% acetone in hexane) to provide the title compound P-5-II (0.25 g, 53% yield). LCMS: m/z; 459.2 (M+1)+.

reactant | tert-butyl 4-[4-chloro-1-(p-tolylsulfonyl)pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 6.94 mmol, 2 g | ClC1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C24H26ClN3O4S
reactant | pyridine | 12.8 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylchloroformate | 6.44 mmol, 1.29 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | dimethylaminehydrochloride | 6.44 mmol, 0.525 g | Cl.CNC
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[4-chloro-1-(p-tolylsulfonyl)pyrrolo[2,3-b]pyridin-2-yl]-N,N-dimethyl-3,6-dihydro-2H-pyridine-1-carboxamide | 0.25 g, 53% yield | ClC1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)N(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C22H23ClN4O3S
